US07947692B2
To a magnetically stirred mixture of 3-Amino-4-methoxypyridine (4.45 g, 35.89 mmole) in 12N HCl (25 mL) cooled in an ice bath was added hydrogen peroxide (5.3 g, 46.65 mmol, 30% solution). The reaction was allowed to slowly warm to room temperature and stirred for 1 h. TLC (50% ethyl acetate/hexane) indicated complete consumption of starting material. The reaction mixture was slowly poured into saturated sodium bicarbonate solution (400 mL) to neutralize the reaction and extracted with ethyl acetate. The resulting organic layers were washed with saturated sodium chloride solution and dried over magnesium sulfate. Filtration and concentration gave 3-Amino-2-chloro-4 methoxypyridine (4.56 g, 28.77 mmol, 80% yield) as an orange solid.

reactant | 3-Amino-4-methoxypyridine | 35.89 mmole, 4.45 g | NC=1C=NC=CC1OC | C6H8N2O
reactant | hydrogen peroxide | 46.65 mmol, 5.3 g | OO | H2O2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | HCl | 12N, 25 mL | Cl | ClH
product | 3-Amino-2-chloro-4 methoxypyridine | 28.77 mmol, 4.56 g, 80% yield | NC=1C(=NC=CC1OC)Cl | C6H7ClN2O
